US04994472
A slurry consisting of 1-amino-2-pyrrolidinone (7.40 g), phenol (17.8 g), and 4-bromopyridine hydrochloride (15.8 g) was heated in a 140° C. oil bath for 70 minutes under nitrogen. The resulting solution was cooled to room temperature and purified via flash column chromatography (silica gel, 2% Et3N/0-50% MeOH/EtOAc) and preparative high performance liquid chromatography (HPLC) (silica gel, 10% MeOH/DCM). The resulting product fractions were concentrated and the product was redissolved in dichloromethane and sat. aqueous sodium bicarbonate. Exhaustive extraction of the aqueous layer afforded the pure product (free of triethyl amine salts). Recrystallization from dichloromethane/ether afforded 2.10 g (16%) of 1-(4-pyridinylamino)-2-pyrrolidinone, m.p. 177°-179.5° C.

reactant | 1-amino-2-pyrrolidinone | 7.40 g | NN1C(CCC1)=O | C4H8N2O
reactant | phenol | 17.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | 4-bromopyridine hydrochloride | 15.8 g | Cl.BrC1=CC=NC=C1
product | 1-(4-pyridinylamino)-2-pyrrolidinone | 2.10 g, 16% | N1=CC=C(C=C1)NN1C(CCC1)=O | C9H11N3O
